### PR TITLE
actually adding grading for polytopes

### PR DESCRIPTION
**Pull request by ooovi**
i just forgot this in the PR with this name...
adds a grading to the polytope face lattice. note its not (yet) the grading be face dimension, but rather by the dimension of the corresponding face in the homogenization cone. thats why its a def not an instance. getting to the actual desired grading is surprisingly complicated

### CODE REVIEW

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Homogenization.lean [hunk 1]
```diff
@@ -0,0 +1,52 @@
...
+
+variable (W) in
+/-- The face lattice of a polytope is graded by homogenization cone face dimension. -/
+@[reducible]
+private noncomputable def Polytope.faceHomogenizationGradeOrder
+    (hCfg : IsPolytope R (C : Set A)) : GradeOrder ℕ C.Face := by
+  have : PointedCone.FG (hom.homogenize W C) := IsPolytope.homogenize_FG hCfg
+  letI := PointedCone.FG.gradeOrder_finrank this
+  -- we just lift the grading we have for PointedCone.Face already
+  refine GradeOrder.liftRight (β := (hom.homogenize W C).Face) _
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Homogenization.lean:48]: Please use canonical homogenization here.

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Homogenization.lean [hunk 2]
```diff
@@ -0,0 +1,52 @@
...
+variable [Ring R] [PartialOrder R] [IsStrictOrderedRing R]
+variable [AddCommGroup V] [Module R V] [AddTorsor V A]
+variable [AddCommGroup W] [Module R W] [hom : Homogenization R A W] [IsModuleConvexSpace R W]
+variable {C : ConvexSet R A}
+
+open PointedCone
+
+/-- The homogenization cone of a polytope is finitely generated. -/
+theorem IsPolytope.homogenize_FG (hCfg : IsPolytope R (C : Set A)) :
+    (Homogenization.homogenize W C).FG := by
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Homogenization.lean:21]: Can we have the iff: if C is a ConvexSet then

IsPolytope C <--> homogenization is FG

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean [hunk 3]
```diff
@@ -80,8 +80,8 @@ theorem embed_range_isSpanning : span R (hom.range : Set W) = ⊤ := by
     Submodule.add_mem _ hlin <| smul_mem _ (hom.height x) (subset_span ⟨a₀, rfl⟩)
 
 open AffineMap LinearEquiv in
-/-- The linear equivalence between the unterlying vector space and its embedding. -/
-noncomputable def homRangeEquiv : LinearEquiv (RingHom.id R) V hom.linear.range := {
+/-- The linear equivalence between the underlying vector space and its embedding. -/
+noncomputable def homLinearRangeEquiv : LinearEquiv (RingHom.id R) V hom.linear.range := {
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean:84]: Use linear equiv notation

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean [hunk 4]
```diff
@@ -90,6 +90,14 @@ noncomputable def homRangeEquiv : LinearEquiv (RingHom.id R) V hom.linear.range
   right_inv v' := by simp
 }
 
+/-- The affine equivalence between the affine space space and its embedding. -/
+public noncomputable def homRangeEquiv : AffineEquiv R A hom.embed.range :=
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean:94]: Use equiv notation.
